US07576165B2
Synthesis of 4-((3-(diethoxy(methyl)silyl)propylthio)methyl)-2-fluoropyridine (Scheme 31)
10 mmole of 3-mercaptopropylmethyldiethoxysilane was dissolved in 10 ml ethanol, then 10 mmole EtOK was added, and stirred for 5 minutes. 10 mmole of 2-fluoropyridine in 10 ml ethanol was added to the solution, and stirred for 30 minutes. The white precipitate was removed by filtration, the solvent in the filtrate was removed in vacuum. The product was purified with a short Si gel column. The solvent was 1:3 ethyl acetate:hexane by volume. 1H NMR (CD3Cl): δ(ppm) 0.03 (3H, s), 0.60 (2H, m), 1.15 (6H, m), 1.55 (2H, m), 2.40 (2H, m), 3.65 (4H, m), 6.85 (1H, s), 7.09 (1H, d, JH-H=5.02), 8.08 (1H, d, JH-H=5.02. Yield: 78%.

reactant | 3-mercaptopropylmethyldiethoxysilane | 10 mmole | SCCC[Si](OCC)(OCC)C | C8H20O2SSi
reactant | EtOK | 10 mmole | C(C)O[K]
reactant | 2-fluoropyridine | 10 mmole | FC1=NC=CC=C1 | C5H4FN
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-((3-(diethoxy(methyl)silyl)propylthio)methyl)-2-fluoropyridine | Yield: 78% | C(C)O[Si](CCCSCC1=CC(=NC=C1)F)(C)OCC | C14H24FNO2SSi
